US08138181B2
Step 3G: Preparation of 2-(7-(2-methoxyethoxy)imidazo[1.2-a]pyridin-3-yl)-4-(oxazol-5-yl)quinolin-8-ol:
To 5-(8-methoxy-2-(7-(2-methoxyethoxy)imidazo[1,2-a]pyridin-3-yl)quinolin-4-yl)oxazole (80 mg, 0.19 mmol) in DMF (3 mL) was added sodium ethanethiolate (162 mg, 1.9 mmol). The reaction vial was sealed and heated to 150° C. for 2 hours. The reaction was then cooled to ambient temperature and concentrated. The residue was purified by flash column chromatography (DCM/MeOH 10:1) providing the desired product (39%).

reactant | 5-(8-methoxy-2-(7-(2-methoxyethoxy)imidazo[1,2-a]pyridin-3-yl)quinolin-4-yl)oxazole | 0.19 mmol, 80 mg | COC=1C=CC=C2C(=CC(=NC12)C1=CN=C2N1C=CC(=C2)OCCOC)C2=CN=CO2 | C23H20N4O4
reactant | sodium ethanethiolate | 1.9 mmol, 162 mg | C(C)[S-].[Na+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 2-(7-(2-methoxyethoxy)imidazo[1.2-a]pyridin-3-yl)-4-(oxazol-5-yl)quinolin-8-ol | 39% | COCCOC1=CC=2N(C=C1)C(=CN2)C2=NC1=C(C=CC=C1C(=C2)C2=CN=CO2)O | C22H18N4O4
